US07741341B2
1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-([1,4]oxazepane-4-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-([1,4]oxazepane-4-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide was prepared by a procedure according to example 22 starting from 423 mg (0.85 mmol) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid and 128.3 mg (0.94 mmol) homomorpholine-hydrochloride. The title compound was obtained as its formiate. Subsequent transformation to the corresponding acetate gave a white amorphous solid.

reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | 0.85 mmol, 423 mg | ClC=1C=CC(=NC1)NC(=O)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C24H27ClN6O4
reactant | homomorpholine-hydrochloride | 0.94 mmol, 128.3 mg | C1CNCCOC1.Cl
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-([1,4]oxazepane-4-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1CC(NC1=NC=C(C=C1)Cl)=O)C=CC=C2C(=O)N2CCOCCC2 | C29H36ClN7O4
